US06737417B2
Ethyl 11-[17β-hydroxy-3-methoxyestra-1,3,5(10)-trien-7α-yl]-2-(4,4,5,5,5-pentafluoropentyl)-9-undecenoate (970 mg, 1.48 mmol) was dissolved in ethyl acetate (30 ml), and 10% palladium carbon (300 mg) was added to the resulting solution followed by stirring for 4 hours at room temperature under hydrogen atmosphere. The reaction mixture was filtered and concentrated to give ethyl 11-[17β-hydroxy-3-methoxyestra-1,3,5(10)-trien-7α-yl]-2-(4,4,5,5,5-penta-fluoropentyl)undecanoate (946 mg, Yield 97%) as an oil.

reactant | Ethyl 11-[17β-hydroxy-3-methoxyestra-1,3,5(10)-trien-7α-yl]-2-(4,4,5,5,5-pentafluoropentyl)-9-undecenoate | 1.48 mmol, 970 mg | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC=3C=C(C=CC3[C@H]1CC2)OC)CC=CCCCCCCC(C(=O)OCC)CCCC(C(F)(F)F)(F)F | C37H53F5O4
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 300 mg | [C].[Pd]
product | ethyl 11-[17β-hydroxy-3-methoxyestra-1,3,5(10)-trien-7α-yl]-2-(4,4,5,5,5-penta-fluoropentyl)undecanoate | 946 mg, Yield 97% | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC=3C=C(C=CC3[C@H]1CC2)OC)CCCCCCCCCC(C(=O)OCC)CCCC(C(F)(F)F)(F)F | C37H55F5O4
